US07863368B2
(ii) Synthesis of 3-tert-butyl-1-ethyl-6,6-diphenylfulvene
A 300-ml three-necked flask equipped with a magnetic stirrer and a three-way cock in a nitrogen atmosphere was charged with 5.11 g (23.9 mmol) of 1-ethyl-3-tert-butylcyclopentadiene (GC purity: 75%) and 150 ml of THF. In a dry ice/methanol bath, 16 ml of a 1.56 M hexane solution of n-butyllithium (25.2 mmol) was slowly added dropwise. The mixture was stirred at room temperature for 20 hours, and 3.1 ml (28.8 mmol) of 1,3-dimethyl-2-imidazolidinone was added and 5.3 g (28.8 mmol) of benzophenone was further added. The mixture was stirred under reflux for 48 hours, and the resultant reaction solution was poured into 100 ml of 2N hydrochloric acid. The organic phase was separated, and the aqueous phase was extracted with 50 ml of hexane two times. The organic phases were combined and washed with a saturated aqueous sodium hydrogencarbonate solution, water and a saturated aqueous sodium chloride solution. The product was dried over magnesium sulfate and the solvent was distilled off. The distillate was purified by column chromatography to give 4.2 g of an orange solid. The yield was 56%. The compound was identified by 1H-NMR spectroscopy. The results are as follows.

reactant | 1-ethyl-3-tert-butylcyclopentadiene | 23.9 mmol, 5.11 g | C(C)C1=CC(=CC1)C(C)(C)C | C11H18
reactant | n-butyllithium | 25.2 mmol | C(CCC)[Li]
reactant | 1,3-dimethyl-2-imidazolidinone | 28.8 mmol, 3.1 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | benzophenone | 28.8 mmol, 5.3 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | hexane | 1.56 M | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-tert-butyl-1-ethyl-6,6-diphenylfulvene | 4.2 g, yield was 56% | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1)CC | C24H26
